US07994205B2
Methyl 4-methyl-1-phenyl-1H-pyrrole-3-carboxylate
To a solution of methyl 4-methyl-1H-pyrrole-3-carboxylate (1.70 g) in N,N-dimethylformamide (1.5 mL) were added iodobenzene (1.50 mL), potassium carbonate (2.19 g), L-proline (273 mmg) and copper iodide (232 mg), and the reaction was carried out in a microwave reactor (Emrys Optimizer manufactured by Personal Chemistry, 70° C., 1 hr). The reaction mixture was filtered through celite, water was added to the filtrate, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=9:1→2:1) to give the title compound as a colorless solid (yield 925 mg, 35%).

reactant | methyl 4-methyl-1H-pyrrole-3-carboxylate | 1.70 g | CC=1C(=CNC1)C(=O)OC | C7H9NO2
reactant | iodobenzene | 1.50 mL | IC1=CC=CC=C1 | C6H5I
reactant | potassium carbonate | 2.19 g | C([O-])([O-])=O.[K+].[K+]
reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
catalyst | copper iodide | 232 mg | [Cu](I)I
product | Methyl 4-methyl-1-phenyl-1H-pyrrole-3-carboxylate | yield 925 mg, 35% | CC=1C(=CN(C1)C1=CC=CC=C1)C(=O)OC | C13H13NO2
